US05834463
(3aR*,10aS*)-4-Acetyl-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
A mixture of (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (1.47 g, 5.0 mmol) and acetic anhydride (5 mL) was stirred for 35 minutes at 100° C. Resulting crystalline precipitate was collected by filtration, which was washed with ethanol to give 1.29 g (yield 77%) of the titled compound, m.p. 209°-210° C.

reactant | (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 5.0 mmol, 1.47 g | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC=C2 | C19H20N2O
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (3aR*,10aS*)-4-Acetyl-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 1.29 g, yield 77% | C(C)(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=CC=C3)C=CC=C2 | C21H22N2O2
